US07151105B2
Step 1: 4-Bromo-2-chloro-1-methanesulfonyl-benzene
Hydrazine monohydrate (1.51 mL, 48 mmol) was added to a cooled 0° C. solution of 4-bromo-2-chlorobenzenesulfonyl chloride (5 g, 17.2 mmol) dissolved in THF (50 mL). The reaction was stirred at room temperature for 2 hours and then the solvent was removed in vacuo to give a white solid. The solid was dissolved in EtOH (100 mL) and treated with sodium acetate (6.56 g, 80 mmol) followed by methyl iodide (4.9 mL, 79 mmol). The reaction mixture was refluxed for 18 hours. The solvent was removed in vacuo to give a residue that was partitioned between 1 N HCl and EtOAc. The organic layer was dried over MgSO4 and concentrated. The crude mixture was purified by flash column chromatography to give the product (1.5 g, 32%). 1H NMR (300 MHz, CDCl3): δ 3.26 (s, 3 H), 7.63 (dd, J=8.5, 1.9 Hz, 2 H), 7.74 (d, J=1.9 Hz, 1 H), 8.02 (d, J=8.5 Hz, 1 H).

reactant | Hydrazine monohydrate | 48 mmol, 1.51 mL | O.NN
reactant | 4-bromo-2-chlorobenzenesulfonyl chloride | 17.2 mmol, 5 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)Cl | C6H3BrCl2O2S
reactant | sodium acetate | 80 mmol, 6.56 g | C(C)(=O)[O-].[Na+]
reactant | methyl iodide | 79 mmol, 4.9 mL | CI | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-Bromo-2-chloro-1-methanesulfonyl-benzene | 1.5 g, 32% | BrC1=CC(=C(C=C1)S(=O)(=O)C)Cl | C7H6BrClO2S
